### PR TITLE
[Merged by Bors] - feat(Data/Real): Sqrt_mul_le_max for NNReal

### PR DESCRIPTION
**Pull request by TJHeeringa**
---

The Zulip topic [mathlib4 > sqrt_mul_le_max : which proof to use](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/sqrt_mul_le_max.20.3A.20which.20proof.20to.20use/with/578719922) has several alternative proofs for this statement. I thought this one was the simplest.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/Sqrt.lean [hunk 1]
```diff
@@ -75,6 +75,14 @@ lemma le_sqrt_iff_sq_le : x ≤ sqrt y ↔ x ^ 2 ≤ y := (sqrt.symm.to_galoisCo
 @[simp] lemma sqrt_le_one : sqrt x ≤ 1 ↔ x ≤ 1 := by rw [← sqrt_one, sqrt_le_sqrt, sqrt_one]
 @[simp] lemma one_le_sqrt : 1 ≤ sqrt x ↔ 1 ≤ x := by rw [← sqrt_one, sqrt_le_sqrt, sqrt_one]
 
+lemma sqrt_mul_le_max : sqrt (x * y) ≤ max x y := by
+  rw [sqrt_le_iff_le_sq, sq]
+  rcases le_total x y with hxy | hxy
+  · rw [sup_of_le_right hxy]
+    exact mul_le_mul_left hxy y
+  · rw [sup_of_le_left hxy]
+    exact mul_le_mul_right hxy x
```
Comment (j-loreaux) [inline Mathlib/Data/Real/Sqrt.lean]: Why would you do all of this by hand? It's less readable, more work to maintain, and makes it seem like this result is somehow hard, or at least hard to prove (neither of which is true).
```suggestion
  rw [sqrt_le_iff_le_sq, sq]; gcongr <;> simp
```

**Review by j-loreaux — COMMENTED** [review]
What is your reasoning behind calling this the simplest proof in that thread?

File: Mathlib/Data/Real/Sqrt.lean (hunk 1 above)
Comment (TJHeeringa) [reply Mathlib/Data/Real/Sqrt.lean]: > What is your reasoning behind calling this the simplest proof in that thread?

Looked most like written by hand, and didn't use `grw`, `gcongr` and `grind`. Moreover, another user called it simple and that wasn't contradicted or overruled. 

> It's less readable, more work to maintain, and makes it seem like this result is somehow hard, or at least hard to prove (neither of which is true).

This using only explicit steps. Is using `grind` and `simp` preferred from a maintainability standpoint since they might break less than explicit steps?

**Review by felixpernegger — APPROVED** [review]

**Comment by j-loreaux** [comment]
bors merge
